US07064124B2
6-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzaldehyde
6-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzaldehyde (187 mg, 0.54 mmol) was dissolved in acetone (20 ml) and after adding thereto anhydrous sodium carbonate (149 mg, 1.08 mmol) and benzyl bromide (120 mg, 0.70 mmol), the solution was stirred at room temperature for 16 hours. The reaction solution was filtered, the filtrate was concentrated and the obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=3:1) to obtain the titled compound (221 mg, 0.51 mmol, 94%).

reactant | 6-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzaldehyde | 0.54 mmol, 187 mg | COC=1C(=C(CC2=CC=CC(=C2C=O)O)C(=C(C1OC)OC)OC)C | C19H22O6
reactant | sodium carbonate | 1.08 mmol, 149 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl bromide | 0.70 mmol, 120 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 6-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzaldehyde | 0.51 mmol, 221 mg, 94% | COC=1C(=C(CC2=CC=CC(=C2C=O)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O6
